US07220759B2
By the reaction in the same manner as in Example 2a, using 5-methyl-3-(pyrrolidin-3-yl)-2H-isoquinolin-1-one hydrochloride (200 mg) and 2-bromoethanol (270 μl), 3-[1-(2-hydroxyethyl)pyrrolidin-3-yl]-5-methyl-2H-isoquinolin-1-one (39 mg) was obtained.

reactant | 5-methyl-3-(pyrrolidin-3-yl)-2H-isoquinolin-1-one hydrochloride | 200 mg | Cl.CC1=C2C=C(NC(C2=CC=C1)=O)C1CNCC1
reactant | 2-bromoethanol | 270 μl | BrCCO | C2H5BrO
product | 3-[1-(2-hydroxyethyl)pyrrolidin-3-yl]-5-methyl-2H-isoquinolin-1-one | 39 mg | OCCN1CC(CC1)C=1NC(C2=CC=CC(=C2C1)C)=O | C16H20N2O2
